* Subcircuit full_adder
.subckt full_adder 8 7 5 4 1 
* eeschema netlist version 1.1 (spice format) creation date: wed jun 24 12:24:33 2015
.include half_adder.sub
x1 8 7 6 2 half_adder
x2 5 6 4 3 half_adder
* u2  3 2 1 d_or
a1 [3 2 ] 1 u2
* Schematic Name: d_or, NgSpice Name: d_or
.model u2 d_or(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 )
* Control Statements

.ends full_adder